US04061761
4.7 g. of 4'-chloro-3'-sulfamoylacetophenone were suspended in 50 ml of ethyl acetate and to that suspension, some drops of a solution of 3.2 g of bromine were added until the mixture was distinctly brown. The suspension was heated to about 60° - 70° C until the color changed (addition of a drop of 48% hydrobromic acid possible), cooled and the residual amount of the bromine solution was added dropwise at room temperature, while stirring. After distilling off the solvent, 2-bromo-4'-chloro-3'-sulfamoylacetophenone was obtained which melted at 169° C (from n-butanol).

reactant | 4'-chloro-3'-sulfamoylacetophenone | ClC1=C(C=C(C=C1)C(C)=O)S(N)(=O)=O | C8H8ClNO3S
reactant | bromine | 3.2 g | BrBr | Br2
reactant | hydrobromic acid | Br | BrH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
